US05238908
3-(trifluoromethyl)glutaric anhydride
Into a 2 liter 3-necked flask equipped with a mechanical stirrer and reflux condenser were added 320 g (1.6 mol) 3-(trifluoromethyl)glutaric acid and 775 ml acetic anhydride. The solution was refluxed for 2.5 hours and allowed to cool to room temperature. The majority of the acetic anhydride was removed in vacuo (80° C.) to afford a brown solid which was dissolved in 800 ml of CHCl3 on a steam bath. Following the addition of 200 ml hexanes, a white precipitate began to form. Further crystallization was induced by storage in a refrigerator. The white flocculent solid was filtered and oven dried (50° C., 30 mm Hg) to afford 261 g (89% yield) of the desired product, m.p. 88°-91° C.

reactant | 3-(trifluoromethyl)glutaric acid | 1.6 mol, 320 g | FC(C(CC(=O)O)CC(=O)O)(F)F | C6H7F3O4
reactant | acetic anhydride | 775 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | CHCl3 | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(trifluoromethyl)glutaric anhydride | 261 g, 89% yield | FC(C1CC(=O)OC(C1)=O)(F)F | C6H5F3O3
